US03948939
B. 9-Benzoyl-1,2,3,4-tetrahydrocarbazole-3,3-dicarboxylic acid
1-Benzoyl-1-phenylhydrazine hydrochloride (5 g.) and 4 g. of cyclohexanone-4,4-dicarboxylic acid in 10 ml. of glacial acetic acid were heated at 60°-70°C. for thirty minutes. The mixture was diluted with water and the resulting solid was collected by filtration and washed with water to give 7.1 g. of the title compound; m.p. 160°C. (acetone and hexane).

reactant | 1-Benzoyl-1-phenylhydrazine hydrochloride | 5 g | Cl.C(C1=CC=CC=C1)(=O)N(N)C1=CC=CC=C1
reactant | cyclohexanone-4,4-dicarboxylic acid | C1CC(CCC1=O)(C(=O)O)C(=O)O | C8H10O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 9-Benzoyl-1,2,3,4-tetrahydrocarbazole-3,3-dicarboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)(C(=O)O)C(=O)O | C21H17NO5
